US06822090B2
To the suspension of 0.71 g of 3′,5′-O-bis(4-chlorobenzoyl)-5-methyl-2′-deoxycytidine in 4 mL of methanol was added 0.7 mL of the solution of sodium hydroxide in methanol (prepared by dissolving 100 mg of sodium hydroxide in 4 mL of methanol), and the mixture was heated at 45° C. for 5 hours with stirring. After cooling, the mixture was neutralized with a solution of hydrogen chloride in methanol, and methanol was evaporated off. After chloroform and water were added to the residue, the layers were separated, and the aqueous layer was washed with chloroform. The aqueous layer was concentrated and acidified with 6N aqueous hydrogen chloride solution, and after the addition of 5 mL of acetone, allowed to stand overnight at −14° C. The precipitated solid was filtered and dried to give 0.37 g of 5-methyl-2′-deoxycytidine hydrochloride as a light brown solid. Yield 97%.

reactant | 3′,5′-O-bis(4-chlorobenzoyl)-5-methyl-2′-deoxycytidine | 0.71 g | ClC1=CC=C(C(=O)[C@@]2(C[C@@H](O[C@@H]2COC(C2=CC=C(C=C2)Cl)=O)N2C(=O)N=C(N)C(=C2)C)O)C=C1 | C24H21Cl2N3O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 4 mL, 100 mg | CO | CH4O
product | 5-methyl-2′-deoxycytidine hydrochloride | 0.37 g, Yield 97% | Cl.CC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | InChI=1S/C10H15N3O4.ClH/c1-5-3-13(10(16)12-9(5)11)8-2-6(15)7(4-14)17-8;/h3,6-8,14-15H,2,4H2,1H3,(H2,11,12,16);1H/t6-,7+,8+;/m0./s1
